US03931177
A stirred mixture of 6-[3-chloro-4-(2,3-epoxypropoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone (2.91 g, 0.01 mole) methanol (58 ml), and t-butylamine (6.6 ml, 0.06 mole) was heated under reflux for 90 minutes. Evaporation of the solution under reduced pressure gave a glassy solid, 3.79g. The hydrochloride (m.p. 229°-238°C decomposition) was recrystallised from ethanol-ether to give pure 6-[4-(3-t-butylamino-2-hydroxypropoxy)-3-chlorophenyl]-4,5-dihydro-3(2H)-pyridazinone hydrochloride m.p. 234°-238°C (decomposition).

reactant | 6-[3-chloro-4-(2,3-epoxypropoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone | 0.01 mole, 58 ml, 2.91 g | ClC=1C=C(C=CC1OCC1CO1)C=1CCC(NN1)=O | C13H13ClN2O3
reactant | t-butylamine | 0.06 mole, 6.6 ml | C(C)(C)(C)N | C4H11N
product | 6-[4-(3-t-butylamino-2-hydroxypropoxy)-3-chlorophenyl]-4,5-dihydro-3(2H)-pyridazinone hydrochloride | Cl.C(C)(C)(C)NCC(COC1=C(C=C(C=C1)C=1CCC(NN1)=O)Cl)O | InChI=1S/C17H24ClN3O3.ClH/c1-17(2,3)19-9-12(22)10-24-15-6-4-11(8-13(15)18)14-5-7-16(23)21-20-14;/h4,6,8,12,19,22H,5,7,9-10H2,1-3H3,(H,21,23);1H
